* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*
*Zetex ZXMP10A17E6 Spice model v1.0 Last revision 06/08/08
*
.SUBCKT ZXMP10A17E6 30 40 50
*                                  D G S
M1 6 2 5 5 Pmod L=1.35E-6 W=1.082
M2 5 2 5 6 Nmod L=1.8E-6 W=0.6
RG 4 2 4.2
RIN 2 5 1E9
RD 3 6 Rdmod 0.185
RL 3 5 7E9
D1 3 5  Dbodymod
LD 3 30 0.3E-9
LG 4 40 1.9E-9
LS 5 50 1.9E-9
.MODEL Pmod PMOS (LEVEL=3 TOX=9.5E-8 NSUB=5E15
+ VTO=-3.7 KP=0.6E-5 RS=0.05 NFS=0.8E12 KAPPA=0.03 UO=650 IS=1E-15 N=10)
.MODEL Nmod NMOS (LEVEL=3 TOX=9.5E-8 NSUB=2.5E15 TPG=-1 IS=1E-15 N=10)
.MODEL Dbodymod D (IS=7.5E-13 RS=.06 TRS1=1.5e-3 CJO=120e-12 M=0.43 VJ=0.41 TT=5.2e-8  BV=110)
.MODEL Rdmod RES (TC1=7.8e-3 TC2=1.4E-5)
.ENDS   ZXMP10A17E6
*
*$
*
*                (c)  2008 Diodes Incorporated
*
*   The copyright in these models  and  the designs embodied belong
*   to Diodes Incorporated (" Diodes ").  They  are  supplied
*   free of charge by Diodes for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved. The models
*   are believed accurate but  no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Diodes Incorporated, its distributors
*   or agents.
*
*   Diodes Incorporated, 1566 N. Dallas Parkway, Suite 850, Dallas, TX 75248, USA